US08981085B2
Benzyl 3-(tert-butoxycarbonylamino)-3-methylpyrrolidine-1-carboxylate (2.00 g, 5.98 mmol) and 10% Pd/C (0.32 g, 0.30 mmol) in MeOH (20 mL) were stirred under 1 atmosphere of H2 for 1 hour. The catalyst was removed by filtration and washed with methanol. The filtrate was concentrated to give tert-butyl 3-methylpyrrolidin-3-ylcarbamate (1.15 g, 96%) as a solid.

reactant | Benzyl 3-(tert-butoxycarbonylamino)-3-methylpyrrolidine-1-carboxylate | 5.98 mmol, 2.00 g | C(C)(C)(C)OC(=O)NC1(CN(CC1)C(=O)OCC1=CC=CC=C1)C | C18H26N2O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.30 mmol, 0.32 g | [Pd] | Pd
product | tert-butyl 3-methylpyrrolidin-3-ylcarbamate | 1.15 g, 96% | CC1(CNCC1)NC(OC(C)(C)C)=O | C10H20N2O2
